US04939241
To a solution of methyl isocyanoacetate (4.55 ml) and triethylamine (7.0 ml) in benzene (45 ml) was added trifluoroacetaldehyde ethyl hemiacetal (8 ml) at 0° C. The mixture was stirred at room temperature for an hour and then heated with reflux for 2 hours. The resulting mixture was neutrized with acetic acid, evaporated, diluted with ethyl acetate and washed successively with water (2 times), 10% aqueous sodium hydrogen carbonate and brine. After drying over sodium sulfate, the ethyl acetate extract was filtered and concentrated. The residue was distilled (60° C. /4 mmHg) to give 4-methoxycarbonyl-5-trifluoromethyl-2-oxazoline (5 g).

reactant | methyl isocyanoacetate | 4.55 ml | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | triethylamine | 7.0 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetaldehyde ethyl hemiacetal | 8 ml | C(C)OC(C(F)(F)F)O | C4H7F3O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | benzene | 45 ml | C1=CC=CC=C1 | C6H6
product | 4-methoxycarbonyl-5-trifluoromethyl-2-oxazoline | 5 g | COC(=O)C1N=COC1C(F)(F)F | C6H6F3NO3
